US05684002
To a solution of 5-amino-7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]-furan (400 mg, 1.84 mmol) and dimethylaminopyridine (247 mg, 2.024 mmol) in CH2Cl2 (20 mL) is added at 24° C. acetyl chloride (130 μL, 1.84 mmol) in a single portion. The reaction is stirred for 1 h, and monitored by TLC (hexane:EtOAc, 9:1). The mixture is diluted with Et2O (5 mL), and a fine precipitate is filtered off. The filtrate is evaporated to an orange solid which is purified by preparative TLC (hexane:EtOAc, 9:1) to yield N-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)acetamide as a white solid.

reactant | 5-amino-7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]-furan | 1.84 mmol, 400 mg | NC1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C14H21NO
reactant | dimethylaminopyridine | 2.024 mmol, 247 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetyl chloride | 1.84 mmol, 130 μL | C(C)(=O)Cl | C2H3ClO
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)acetamide | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)NC(C)=O | C16H23NO2
